US06350907B1
N-(Dimethylaminopropyl)-N′-ethylcarbodiimide (2.298 g, 12 mmol) was added to a stirred mixture of (2R)-2-[2-(tert-butoxy)-2-oxoethyl]pent-4-enoic acid (2.13 g, 10 mmol tert-leucine benzyl ester (2.834 g, 11 mmol)(N. Moss et al., J. Med. Chem., 1996, 39, 2178), N-methylmorpholine (2.40 mL, 22 mmol) and 1-hydroxybenzotriazole hydrate (1.836 g, 12 mmol) in anhydrous dichloromethane (50 mL) under nitrogen at 0° C. The mixture was allowed to warm slowly to room temperature with the cooling bath in place. After 20 h, the mixture poured into ethyl acetate (250 mL) and washed with 5% aqueous citric acid (2×100 mL), saturated aqueous sodium bicarbonate (2×70 mL), brine (70 mL), dried (MgSO4), and concentrated under reduced pressure. The residual oil crystallised upon addition of pentane. The solid was filtered and dried to give tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-(benzyloxycarbonyl)propyl]amino}carbonyl)hex-5-enoate (4.068 g, 97%), as a colourless solid.

reactant | N-(Dimethylaminopropyl)-N′-ethylcarbodiimide | 12 mmol, 2.298 g | CN(C)CCCN=C=NCC | C8H17N3
reactant | (2R)-2-[2-(tert-butoxy)-2-oxoethyl]pent-4-enoic acid | C(C)(C)(C)OC(C[C@H](C(=O)O)CC=C)=O | C11H18O4
reactant | tert-leucine benzyl ester | 10 mmol, 2.13 g | C(C1=CC=CC=C1)OC([C@@H](N)C(C)(C)C)=O | C13H19NO2
reactant | N-methylmorpholine | 22 mmol, 2.40 mL | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole hydrate | 12 mmol, 1.836 g | O.ON1N=NC2=C1C=CC=C2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-(benzyloxycarbonyl)propyl]amino}carbonyl)hex-5-enoate | 4.068 g, 97% | CC([C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)CC=C)(C)C | C24H35NO5
